US09376392B2
To 4-methoxy-3-methylaniline (6.7 g) was added concentrated H2SO4 (12.4 mL), followed by glycerin (21.1 g), m-nitrobenzenesulfonic acid (6.53 g), H3BO3 (3.4 g) and FeSO4.7H2O (3.2 g). The mixture was stirred at 140° C. for 1 h. The reaction was cooled to 25° C., quenched with ice-water and neutralized with 30% KOH. The mixture was extracted with DCM (2×), and the combined extracts dried with Na2SO4 and concentrated in vacuo. The crude product was purified by column chromatography (EtOAc) to give 6-methoxy-7-methylquinoline LCMS-ESI+ (m/z): 174.1 (M+H)+.

reactant | 4-methoxy-3-methylaniline | 6.7 g | COC1=C(C=C(N)C=C1)C | C8H11NO
reactant | H2SO4 | 12.4 mL | OS(=O)(=O)O | H2O4S
reactant | m-nitrobenzenesulfonic acid | 6.53 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O | C6H5NO5S
solvent | glycerin | 21.1 g | OCC(O)CO | C3H8O3
product | 6-methoxy-7-methylquinoline | COC=1C=C2C=CC=NC2=CC1C | C11H11NO
